US07615568B2
To a solution of methyl 4-fluoro-2-(methoxymethoxy)-benzoate (10.6 g, 50 mmol) and DMSO (20 mL), under nitrogen, was added sodium ethanethiolate (5.8 g, 55 mmol) in portions. The exothermic reaction was stirred for 19 h, diluted with water, and extracted with ethyl acetate. The organic layer was concentrated; and the residue was dissolved in ether, filtered through diatomaceus earth, and concentrated to give intermediate methyl 4-(ethylthio)-2-(methoxymethoxy)benzoate.

reactant | methyl 4-fluoro-2-(methoxymethoxy)-benzoate | 50 mmol, 10.6 g | FC1=CC(=C(C(=O)OC)C=C1)OCOC | C10H11FO4
reactant | DMSO | 20 mL | CS(=O)C | C2H6OS
reactant | sodium ethanethiolate | 55 mmol, 5.8 g | C(C)[S-].[Na+]
solvent | water | O | H2O
product | methyl 4-(ethylthio)-2-(methoxymethoxy)benzoate | C(C)SC1=CC(=C(C(=O)OC)C=C1)OCOC | C12H16O4S
